US08026370B2
1H-Pyrazole-4-carboxylic acid ethyl ester (5.0 g) was dissolved in DMF (50 mL), 60% sodium hydride (1.57 g) was added, and the mixture was stirred at 0° C. for 30 min. Then, isobutyl iodide (4.7 mL) was added, and the mixture was stirred for 14 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent; hexane:ethyl acetate=8:2) to give 1-(2-methylpropyl)-1H-pyrazole-4-carboxylic acid ethyl ester (6.0 g) as an oil. The obtained compound was subjected to reactions in the same manner as in Reference Examples 17 to 18 to give the title compound.

reactant | 1H-Pyrazole-4-carboxylic acid ethyl ester | 5.0 g | C(C)OC(=O)C=1C=NNC1 | C6H8N2O2
reactant | sodium hydride | 1.57 g | [H-].[Na+]
reactant | isobutyl iodide | 4.7 mL | C(C(C)C)I | C4H9I
reactant | Water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-(2-methylpropyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 6.0 g | C(C)OC(=O)C=1C=NN(C1)CC(C)C | C10H16N2O2
